US05576340
2-[2-(2-Methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol (Compound No. 3-3)
Following a procedure similar to that described in Example 6, but using 2 g of 2-amino-1-(3-chlorophenyl)ethanol (prepared as described in Preparation 8), 3.11 g of methyl 2-(2-oxopropoxy)phenylacetate (prepared as described in Preparation 18), 70 ml of benzene, 60 ml of absolute methanol and 2.5 g of sodium cyanoborohydride, 3.1 g of the title compound were obtained having an Rf=0.30 (thin layer chromatography over silica gel, using ethyl acetate as the developing solvent).

reactant | 2-amino-1-(3-chlorophenyl)ethanol | 2 g | NCC(O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | methyl 2-(2-oxopropoxy)phenylacetate | 3.11 g | O=C(COC1=C(C=CC=C1)CC(=O)OC)C | C12H14O4
reactant | benzene | 70 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 2.5 g | C(#N)[BH3-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 2-[2-(2-Methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol | 3.1 g | COC(=O)CC1=C(OCC(C)NCC(O)C2=CC(=CC=C2)Cl)C=CC=C1 | C20H24ClNO4
